Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / codeine / Valium
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Note: Pt and his mother were very upset at their treatment over
the past few visits at ___ and were too irate to provide
details of his medical hx. There is a detailed note from Dr.
___ ___ in ___ that I reviewed to glean much of the
information below. 

This is a ___ year-old with the history below who presented to
the ER with intermittent epigastric abd pain a/w n/v since ___. He has a previous h/o pancreatitis in ___ as a
complication from a colectomy in ___. He had been asymptomatic
until ___ when he underwent an anal polyp resection at the
___. Since then he has been having post-prandial 
abd
pain that would occur five to 60 minutes of eating and then
gradually resolve, a/w nausea but not vomiting or poor PO 
intake.
His bowel movements have remained unchanged throughout all of
this with anywhere from three to eight soft stools per day
without evidence of blood. He was seen by Dr. ___ in GI in
___. MRCP was done that was MRCP was normal with the 
exception
of a small cyst in the tail of the pancreas. IgG subclass 4
levels were markedly elevated at 178. A diagnosis of autoimmune
pancreatitis was made and pt was started on a prednisone taper
with improvement in his sxs initially. However, the sx recurred
over the past wk or so and got acutely worse today. Pt's mom
called Dr. ___ rec'd ER eval and repeat MRCP. He
otherwise denies losing wt, poor PO intake, bowel changes, 
fevers
in the past few weeks. 

On arrival, VSS. 

Unable to fully obtain d/t pt mood 
Positives on review of systems: -
All other systems reviewed and negative, specifically, denies:
visual changes, numbness/weakness, chest pain, shortness of
breath, fevers, nausea, vomiting, abdominal pain, diarrhea,
bleeding, rash, joint aches/pains.

 
Past Medical History:
Celiac 
FAP 
chronic migraines (history of 3 concussions)
Anxiety
Depression(without suicidal ideation)
PTSD (attributed to his long\hospitalization/illness in ___,
and 
Pancreatitis of unknown etiology
-ongoing w/u

 
Social History:
___
Family History:
His family history is significant for FAP in his mother and
maternal grandfather and CAD on his mothers side of the family. 
His mother also has a history of chronic pancreatitis (unclear
etiology) and his sister has a clotting disorder (which he
reports being tested for and does not have). 

 
Physical Exam:
VS:  Afebrile and vital signs stable (reviewed in bedside 
record)
General Appearance: angry, anxious, irate 
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: MMM
Gastrointestinal: nd, +b/s, soft, ttp to mild palpation at
epigastrium and umbilicus, 
Psychiatric: angry, anxious, irate 
Unable to complete full exam d/t pt mood.

DISCHARGE:
Vitals: Afebrile, VSS
General Appearance: NAD
HEENT: NCAT
Gastrointestinal: soft, mild distension
Psychiatric: slightly irritated but conversive
Unable to complete full exam d/t pt mood.

 
Pertinent Results:
ADMISSION:

___ 10:15PM BLOOD WBC-8.2 RBC-5.44 Hgb-16.5 Hct-47.1 MCV-87 
MCH-30.3 MCHC-35.0 RDW-12.1 RDWSD-38.0 Plt ___
___ 10:15PM BLOOD Glucose-95 UreaN-15 Creat-0.9 Na-139 
K-4.0 Cl-102 HCO3-25 AnGap-16
___ 10:15PM BLOOD ALT-20 AST-24 AlkPhos-69 TotBili-0.6
___ 06:55AM BLOOD Calcium-9.5 Phos-5.2* Mg-2.2
___ 06:55AM BLOOD IgG-822 IgA-145 IgM-264*

DISCHARGE:

___ 07:35AM BLOOD WBC-6.9 RBC-5.46 Hgb-16.2 Hct-47.3 MCV-87 
MCH-29.7 MCHC-34.2 RDW-11.6 RDWSD-36.7 Plt ___
___ 07:35AM BLOOD Glucose-91 UreaN-11 Creat-1.0 Na-139 
K-3.8 Cl-102 HCO3-29 AnGap-12
___ 07:35AM BLOOD Calcium-9.6 Phos-3.7 Mg-2.0

IMAGING:
MR ENTEROGRAPHY:
EXAMINATION:  MR ___ 
  
INDICATION:  ___ year old man with chronic abdominal pain, MRCP 
without 
pancreatitis or stones. GI recommended MRE for further 
evaluation.  // 
?explanation for abdominal pain.  History of FAP and celiac 
disease. 
  
TECHNIQUE:  T1 and T2-weighted multiplanar images of the abdomen 
and pelvis 
were acquired within a 1.5 T magnet, including 3D dynamic 
sequences performed 
prior to, during, and following the administration of 0.1 
mmol/kg of Gadavist 
intravenous contrast (5 cc). Oral contrast consisted of 900 mL 
of VoLumen. 1.0 
mg of Glucagon was administered IM to reduce bowel peristalsis. 
  
COMPARISON:  Comparison is made to MRCP from ___. 
  
FINDINGS:  
  
MR ENTEROGRAPHY: 
  
The patient has had prior total proctocolectomy.  There is 
diffuse gaseous 
distension and significant dilation of the distal ileum, up to 
10 cm, extending to the pouch.  The ileoanal anastomosis is 
widely patent with no 
evidence of obstruction.  Normal peristalsis is appreciated with 
forward flow of enteric contents.   No evidence of bowel 
obstruction.  No focal bowel wall thickening to suggest 
inflammation.  No small bowel masses are appreciated. No free 
fluid within the abdomen or pelvis. 
  
MRI OF THE ABDOMEN AND PELVIS WITH AND WITHOUT IV CONTRAST: 
  
The imaged portions of the liver, spleen, pancreas, and 
bilateral adrenals are unremarkable.  No intrahepatic or 
extrahepatic biliary ductal dilatation.  The gallbladder is 
unremarkable.  Normal appearance of bilateral kidneys, with no 
focal lesions, and no evidence of hydronephrosis.  There are no 
worrisome 
osseous findings. 
  
IMPRESSION:  
  
Status post total proctocolectomy.  Diffuse gaseous 
distention/dilation of the  distal small bowel, presumed to be 
chronic given its caliber.  This could be  related to gas 
producing syndromes such as bacterial overgrowth.  No evidence 
of obstruction, assuming relatively normal stool patterns. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 4:40 
AM 

MRCP:
EXAMINATION:  MRCP 
  
INDICATION:  ___ year old man with h/o autoimmune pancreatitis 
not responding 
to steroids. Per Dr. ___ MRCP to re-diagnose.  // 
___ year old man 
with h/o autoimmune pancreatitis not responding to steroids. Per 
Dr. ___, 
___ MRCP to re-diagnose 
  
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were 
acquired in a 1.5 T magnet. 
Intravenous contrast: 5 mL Gadavist 
  
COMPARISON:  Previous MRCP from ___. 
  
FINDINGS:  
  
Lower Thorax: Lung bases are clear.  No pleural or pericardial 
effusion. 
  
Liver: Normal hepatic parenchymal signal and contours.  THIDs 
appreciated on 
arterial phase imaging.  A few tiny T2 hyperintense foci are 
seen within the 
liver, likely representing cysts versus biliary hamartomas. 
  
Biliary: There is no evidence of intrahepatic or extrahepatic 
biliary ductal 
dilatation.  The gallbladder is unremarkable in appearance.  No 
evidence of 
cholelithiasis. 
  
Pancreas: Diffuse lobulated contours and bulky pancreatic 
parenchyma, similar 
compared to previous.  There is normal T1 signal of the 
pancreas.  
Additionally, no restriction on DWI is appreciated.  No 
peripancreatic fluid 
or stranding is appreciated.  The main pancreatic duct is not 
dilated.  A tiny 
sub 5mm cyst is once again appreciated in the pancreatic tail, 
likely a small 
side branch IPMN. 
  
Spleen: Normal appearance of the spleen, with no focal lesions. 
  
Adrenal Glands: Bilateral adrenals exhibit normal morphology, 
with no focal 
lesions. 
  
Kidneys: Normal kidneys.  No evidence of hydronephrosis. 
  
Gastrointestinal Tract:  The imaged alimentary tract is within 
normal limits.  
No focal bowel wall thickening.  There are gas-filled loops of 
large bowel 
noted. 
  
Lymph Nodes: No intra-abdominal or retroperitoneal 
lymphadenopathy. 
  
Vasculature:  There is conventional anatomy of the visceral 
arteries. 
  
Osseous and Soft Tissue Structures: No worrisome osseous 
findings. 
  
IMPRESSION:  
  
1. Normal morphology and signal of the pancreas with no 
suggestion of 
pancreatitis. 
2.  Stable appearance of a small pancreatic tail cyst, likely 
side branch 
IPMN.  Per department protocol, MR follow up is recommended in 
one year. 
  
RECOMMENDATION(S):  Stable appearance of a small pancreatic tail 
cyst, likely 
side branch IPMN.  Per department protocol, MR follow up is 
recommended in one 
year. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on MON ___ 
12:15 ___ 

 
Brief Hospital Course:
___ w/chronic longstanding abdominal pain presents with acute 
worsening of pain.  No laboratory abnormalities present on 
admission.  Patient seen and evaluated by gastroenterology, and 
after MRCP followed by MRE, patient was diagnosed with small 
intestine bacterial overgrowth.

#Abd pain/small intestine bowel overgrowth: Possibly due to SIBO 
or pouchitis, initially felt to be autoimmune pancreatitis, but 
lack of improvement on high dose steroids is not consistent with 
this and repeat MRCP without pancreatitis. Appears to have a 
psychiatric component to somatic sxs.  Started on rifaximin 
empirically and then proven with MRE to be due to SIBO.  Patient 
had numerous complaints regarding pain control.  Initially 
stated he did not feel oxycodone provided assistance.  Switched 
to equivalent dose of dilaudid PO (accounting for 60% cross 
tolerance) and was maintained on 2mg PO q4 PRN, and found 
numerous times to be sleeping.  Emphasized to patient numerous 
times that opiates may worsen bowel function. Dr. ___ 
patient and stated that given evidence of SIBO, patient should 
be on rifaximin for ___nd start charcoal for gas 
TID with meals.  Furthermore, patient was given rx for 
simethicone for gas as well.  At time of discharge patient 
preferred to be on oxycodone due to sedation, so a prescription 
for 20 pills of oxycodone was filled.  Patient was instructed 
that he must find a primary care doctor to determine if he is to 
receive opiates as he will not be prescribed opiates by 
gastroenterology, and will receive no more than 20 tablets on 
discharge in order to get him to a PCP ___.  We attempted to 
obtain a PCP visit for him, however he and his mother preferred 
to find their own PCP. 
- continue rifaximin 550 TID for SIBO x 14 total days
-oxycodone for pain control

#Protein Calorie malnutrition: mild/moderate

Depression/anxiety: Continue home meds 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Duloxetine 40 mg PO DAILY 
2. PredniSONE 10 mg PO DAILY 
3. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Abd pain 

 
Discharge Medications:
1. Duloxetine 40 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
3. Rifaximin 550 mg PO/NG TID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth three times 
a day Disp #*33 Tablet Refills:*0
4. Simethicone 40-80 mg PO QID:PRN abdominal pain 
RX *simethicone [Gas Relief] 80 mg ___ tablet by mouth four 
times a day Disp #*120 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Abd pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6 Disp #*20 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Intestine Bacterial Overgrowth

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for evaluation of abdominal pain.  
While you were here, you had reassuring labs and imaging 
concerning for Small intestine bacterial overgrowth.  You were 
started on a medication called Rifaximin, which you should take 
three times per day to complete a 14 day course.  With regards 
to pain medications, narcotics are not the preferred method of 
pain control as they may slow your digestive tract.  You will be 
provided a short course of pain medication to get you to your 
PCP ___.  You requested to find your own primary care doctor, 
which I highly suggest you do.  Please follow up with your PCP 
and Dr. ___ in the next 2 weeks.
 
Followup Instructions:
___